US06001855
140 mg of tert.-butyl (R)-[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-pyrrolidin-3-ylmethoxy]-acetate are reacted as in Example 6. The crude trifluoroacetate is dissolved in water, neutralized with dilute NH3, purified on Kieselgel 100 C18 -reverse phase and lyophilized from water. There are obtained 99 mg of (R)-[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-pyrrolidin-3-ylmethoxy]-acetic acid, m.p. 136° C. (sintering), [α]D =+14.2°, (H2O, c=0.5), MS: 342 (M+H)+.

reactant | tert.-butyl (R)-[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-pyrrolidin-3-ylmethoxy]-acetate | 140 mg | N(C(=N)N)C=1SC(=C(N1)C)C(=O)N1C[C@@H](CC1)COCC(=O)OC(C)(C)C | C17H27N5O4S
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | NH3 | N | H3N
solvent | water | O | H2O
product | (R)-[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-pyrrolidin-3-ylmethoxy]-acetic acid | 99 mg | N(C(=N)N)C=1SC(=C(N1)C)C(=O)N1C[C@@H](CC1)COCC(=O)O | C13H19N5O4S
